US04038391
4-Methylpiperazine (8 g.) is added all at once to a suspension of 2-(1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one (5.6 g.) in acetonitrile (100 cc.). The solution obtained is stirred for 6 hours at a temperature of about 20° C. The reaction mixture is poured into a suspension of ice (100 g.) in methylene chloride (300 cc.). An 8% aqueous solution of sodium bicarbonate (200 cc.) is added to the suspension obtained. The organic phase is decanted and the aqueous phase is extracted with methylene chloride (400 cc.). The combined organic phases are dried over anhydrous potassium carbonate (10 g.) and concentrated to dryness. The oily residue (8 g.) is taken up in refluxing diisopropyl ether (100 cc.). On cooling the solution, crystals are deposited and are filtered off. 3-(4-Methylpiperazin-1-yl)carbonyloxy-2-(1,8-naphthyridin-2-yl)isoindolin-1-one (2.9 g.), which melts at 183° C., is thus obtained.

reactant | 4-Methylpiperazine | 8 g | CN1CCNCC1 | C5H12N2
reactant | 2-(1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one | 5.6 g | N1=C(C=CC2=CC=CN=C12)N1C(C2=CC=CC=C2C1OC(=O)OC1=CC=CC=C1)=O | C23H15N3O4
reactant | sodium bicarbonate | 200 cc | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 100 cc | C(C)#N | C2H3N
solvent | methylene chloride | 300 cc | C(Cl)Cl | CH2Cl2
product | 3-(4-Methylpiperazin-1-yl)carbonyloxy-2-(1,8-naphthyridin-2-yl)isoindolin-1-one | 2.9 g | CN1CCN(CC1)C(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC=CC=C2C=C1 | C22H21N5O3
